US04579848
A 32.9 g portion of 2-(3-iodophenyl)-4(1H)-pyrimidinone was stirred and refluxed in 123 ml. of phosphorus oxychloride for 2 hours, then cooled overnight and the solvent evaporated at 55° C. The residue was suspended in 400 ml of chloroform, then evaporated. This residue was taken up in 300 ml of chloroform, filtered and washed twice with 75 ml of chloroform. The combined filtrate and washes were evaporated giving 4-chloro-2-(3-iodophenyl)pyrimidine.

reactant | 2-(3-iodophenyl)-4(1H)-pyrimidinone | IC=1C=C(C=CC1)C=1NC=CC(N1)=O | C10H7IN2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(3-iodophenyl)pyrimidine | ClC1=NC(=NC=C1)C1=CC(=CC=C1)I | C10H6ClIN2
